US07138420B2
3-Fluoro-4-Nitroaniline (1 mmol, 0.15 g) was dissolved in a 3:1 mixture of CH2Cl2/THF (4 mL) and pyridine (0.2 mL) was added to the mixture, which was cooled in an ice-water bath under nitrogen. Cyclohexanecarbonylchloride (1.1 mmol, 0.162 g) was dissolved in CH2Cl2 (1 mL) and added dropwise to the above solution at 4° C. and stirred at room temperature for 3 h. The reaction mixture was diluted with CH2Cl2 (50 mL) and washed with 1N HCl, 10% NaHCO3, brine and water, dried over Na2SO4 and the solvent evaporated to afford cyclohexyl-N-(3-fluoro-4-nitrophenyl)carboxamide (0.215 g) of product (Yield: 81%).

reactant | 3-Fluoro-4-Nitroaniline | 1 mmol, 0.15 g | FC=1C=C(N)C=CC1[N+](=O)[O-] | C6H5FN2O2
reactant | Cyclohexanecarbonylchloride | 1.1 mmol, 0.162 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | CH2Cl2 THF | 4 mL | C(Cl)Cl.C1CCOC1
solvent | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | cyclohexyl-N-(3-fluoro-4-nitrophenyl)carboxamide | 0.215 g | C1(CCCCC1)C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])F | C13H15FN2O3
